US07718693B2
To a solution of (2,4-dichlorophenyl)methyl isocyanide (0.047 g, 0.25 mmol) and levulinic acid (0.041 ml, 0.4 mmol) in methanol (2 ml) was added cyclopropylamine (0.042 ml, 0.6 mmol). The mixture was heated to 100° C. for 30 minutes in a microwave reactor. The solvent was removed in vacuo and the residue was purified by mass-directed automated HPLC to give 1-cyclopropyl-N-[(2,4-dichlorophenyl)methyl]-2-methyl-5-oxoprolinamide (0.054 g) as a white solid.

reactant | (2,4-dichlorophenyl)methyl isocyanide | 0.25 mmol, 0.047 g | ClC1=C(C=CC(=C1)Cl)C[N+]#[C-] | C8H5Cl2N
reactant | levulinic acid | 0.4 mmol, 0.041 ml | C(CCC(=O)C)(=O)O | C5H8O3
reactant | cyclopropylamine | 0.6 mmol, 0.042 ml | C1(CC1)N | C3H7N
reactant | methanol | 2 ml | CO | CH4O
product | 1-cyclopropyl-N-[(2,4-dichlorophenyl)methyl]-2-methyl-5-oxoprolinamide | 0.054 g | C1(CC1)N1[C@](C(=O)NCC2=C(C=C(C=C2)Cl)Cl)(CCC1=O)C | C16H18Cl2N2O2
